US06203154B1
5.37 g (20 mmol) of N,N,N′-triethylbenzidine obtained by reacting benzidine and 3 equivalents of ethylchloride were dissolved in 50 ml of methylene chloride, and 20 ml of a methylene chloride solution of 2.30 g (22 mmol) of methacrylic chloride were added dropwise thereto in the presence of triethylamine. After the resulting reaction solution was mixed with water to remove the water-soluble substances and the water was removed with sodium sulfate, the solvent was distilled out thereby obtaining 6.34 g (18 mmol) of N-methacryloyl-N,N′,N′-triethylbenzidine (electrochromic compound). The structure of the electrochromic compound is as follows:

reactant | benzidine | C1(=CC=C(N)C=C1)C1=CC=C(N)C=C1 | C12H12N2
reactant | ethylchloride | 3 equivalents | C(C)Cl | C2H5Cl
reactant | methacrylic chloride | 22 mmol, 2.30 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-methacryloyl-N,N′,N′-triethylbenzidine | 18 mmol, 6.34 g | C(C(=C)C)(=O)N(C1=CC=C(C=C1)C1=CC=C(N(CC)CC)C=C1)CC | C22H28N2O
